Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lactose
 
Attending: ___.
 
Chief Complaint:
Ataxia, lower extremity swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with history of metastatic breast cancer s/p 
irradiated brain mets, known lung mets who presents as referral 
from ___ clinic for admission due to ataxia and lower 
extremity edema.

The patient was on taxol and Herceptin for the past year, until 
she experienced new LLE edema over the last several months which 
worsened in ___ so Taxol stopped, but Herceptin continued. 
However she missed her last week's appointment. She has had 
memory issues and lives alone. ___ care was initiated last 
month. On presentation to ___ clinic today, there was 
concern of her ability to care for herself and the worsening 
lower extremity edema with 9 pound weight gain since the past 
visit, she was admitted to the hospital.

At clinic, she was noted to have a lot of difficulty with wide 
based unsteady gait, which is worse from baseline. She has known 
left cerebellar lesion by MRI brain.

On interview the patient has known left eye esotropia but no 
diplopia, since childhood. Denies any vision changes or headache 
or nausea. She doesn't think she has balance issues but notices 
she has to hold onto railings everytime she walks at home. She 
has no chest pain, SOB, fever, abdominal pain, diarrhea. She has 
no dysuria hematuria or urgency.  She does endorse left flank 
dull ache, very mild, over the last few days. 

Of note she was at ___ 3 weeks ago for presumed UTI, 
treated with cipro for 7 days. She had left flank pain at that 
time.

PAST MEDICAL HISTORY: 
-Left DCIS with partial mastectomy in ___.  ER negative, 
completed adjuvant XRT in ___, had trauma to left nipple in 
___, noted to have recurrence and status post left total 
mastectomy and resection of left axillary node, was on 
anastrozole. Has metastatic breast cancer s/p irradiated brain 
mets, known lung mets, was on taxol and Herceptin until LLE 
edema worsened in ___ so Taxol stopped but Herceptin 
continued. 
-Hypertension, hyperlipidemia, diet controlled DM2, IBS

SOCIAL HISTORY:
___
FAMILY HISTORY: 
Her mother may have had ovarian cancer, died at age ___ over a  
respiratory illness.  The maternal aunt had breast cancer in her 
___ and in the father's family there is heart disease and 
diabetes.  Of her seven siblings, none have cancer.

ALLERGIES/ADR: See webOMR

ROS: A complete 10 point review of systems was otherwise 
negative, except for any problems noted.
 
Past Medical History:
Hypertension, fibromyalgia, hypothyroidism, pericarditis, 
myocarditis and Ramsay Hunt disease, lupus
Metastatic breast cancer

 
Family History:
Her mother may have had ovarian cancer, died at age ___ over a 
respiratory illness.  The maternal aunt had breast cancer in her 
___ and in the father's family there is heart disease and 
diabetes.  Of her seven siblings, none have cancer.
 
Physical Exam:
VITALS: Afebrile and vital signs stable 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round. Has known glaucoma in R 
eye and significant left eye lateral deviation/exotropia. EOMI.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, no tenderness or 
erythema in lower extremities. 1+ edema in ___ bilaterally.
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place 
and time (president ___, ___, ___.
CRANIAL NERVES: Able to count fingers and color vision grossly 
intact in either eye. No diplopia with EOMI. PERRL. Visual 
fields are full to confrontation in all quadrants bilaterally.  
Sensation over the face is intact and equal bilaterally for 
sharp, dull, and light touch stimuli. 
During mastication there is midline location of the jaw and 
equal contraction and able to keep both eyes shut to resistance. 
 Hearing is grossly intact bilaterally. The palate and uvula 
elevate symmetrically, with an intact gag reflex bilaterally.  
Shoulder shrug is strong and equal bilaterally.  
Tongue protrudes midline and moves symmetrically with no
fasciculations.
SENSATION: Bilaterally intact and equal for pinprick, position,
and light touch in fingers, forearms, toes and thighs.
STRENGTH: Good muscle bulk and tone throughout all extremities.
Strength ___ bilaterally for deltoid, bicep, tricep, quadricep.
Grip strength ___ bilaterally.
CEREBELLAR: Finger to nose testing is dysmetric worse with the
left side. 
 
Pertinent Results:
___ 09:40AM BLOOD WBC-6.0 RBC-3.91 Hgb-12.0 Hct-37.4 MCV-96 
MCH-30.7 MCHC-32.1 RDW-12.9 RDWSD-45.0 Plt ___

MRI head
1. No evidence for acute intracranial hemorrhage or infarction.
2. Significant interval progression of parenchyma metastatic 
disease,
including numerous new metastases.
3. Increased periventricular white matter T2/FLAIR hyperintense 
likely
representing sequela of posttreatment changes.
4. Moderate global parenchymal volume loss, similar to the 
previous
examination.
 
Lower extremity venous duplex
1.  Partially compressible mid to distal left femoral vein 
without wall to
wall flow concerning for nonocclusive thrombus.
2.  Bilateral peroneal veins are not visualized.  Otherwise, no 
deep vein
thrombosis in the remaining bilateral lower extremity veins.

  URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
 
Brief Hospital Course:
___ with metastatic breast cancer s/p irradiated brain mets now 
on Herceptin who has been admitted from clinic for evaluation of 
ataxia and lower extremity edema, found to have progression of  
metastatic disease on brain MRI.  She was diagnosed with L non 
occlusive distal femoral DVT on ultrasound, treating with 
anticoagulation. 

# Metastatic breast cancer with intracranial progression:
Intracranial involvement worsening, symptomatic with ataxia. 
However, subtle cognitive changes/deficits not acute per primary 
oncologist Dr. ___.  Had prior WBRT at ___ with Dr. 
___. Records obtained: treatment ___, 
whole brain using two lateral opposed portals, 17x22 w/ mlc 
blocks, 6 mV beam energy, 12 fractions, 17 days, 3000 cGy total 
dose. On ___ she developed headaches and started Decadron 2 
mg twice daily which helped her, then tapered off by ___.
During the patient's hospitalization, there was an ongoing 
discussion (with the patient, her son, primary oncologist and 
radiation oncology) regarding next steps for radiation and need 
for LP to rule out leptomeningeal disease. Initially the patient 
was very uncertain about next steps, and she wanted to involve 
her son. On the day of discharge, she changed her mind and 
ultimately decided to proceed with LP; however by time patient 
decided it was not possible to do so as an inpatient and she 
didn't want to stay longer so she decided to have it as an 
outpatient. LP scheduled for ___, prior to oncology 
appointment on ___. Patient has The Ride for getting to 
appointments. Discussed plan with son and he was in agreement.

#Acute left ___ DVT
Mid to distal left femoral vein partial occlusion seen on ___. 
Initially treated her acute ___ DVT with weight based LMWH. Per 
Dr. ___ will be challenging for the patient to give herself 
LMWH at home; therefore, it was changed to Eliquis on discharge. 


#Lower extremity edema
No clinical signs for decompensated diastolic CHF, Sp02 normal 
on room air, not dyspneic. TTE in ___ showed normal EF. 
nt-pro BNP low. There is some discrepancy regarding the 
patient's prior home dose of lasix but it is listed as 40 mg 
daily in the chart. Given concern for increasing lower extremity 
edema, the patient was given lasix at 60 mg daily while 
inpatient, and the edema improved. She was discharged at this 
dose of 60 mg daily. She has oncology follow up on ___, 
where she will be reassessed regarding titration of this dose. 

#Mild dull left flank pain
Urine culture was checked and showed mixed bacteria consistent 
with contamination. Her pain improved and she was not treated 
for a UTI.

Also seen by ___ and OT while inpatient.

#HTN
- continued home losartan

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
4. Aspirin 81 mg PO DAILY 
5. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral DAILY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily as needed Disp #*30 Capsule Refills:*1 
3.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily as 
needed Disp #*30 Tablet Refills:*2 
4.  Aspirin 81 mg PO DAILY  
5.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral DAILY  
6.  Furosemide 60 mg PO DAILY  
7.  Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS  
8.  Losartan Potassium 25 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic breast cancer to brain
Acute lower extremity deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were diagnosed with a blood clot in the vein in your leg.  
We started a blood thinner medication to treat this.

Your brain MRI showed concerning findings of progression of 
brain mass lesions/cancer changes. In order to decide on 
radiation treatment, you will do a lumbar puncture as an 
outpatient and meet with the radiation oncologist to discuss 
treatment options. We are also scheduling an outpatient 
appointment for you with your oncologist to discuss 
chemotherapy.

It was a pleasure taking care of you!

Sincerely,

Your ___ team
 
Followup Instructions:
___